US07015218B1
4-Fluorophenylhydrazine (15.5 g) and ethyl 2-ethoxymethyleneacetoacetate (22.9 g) synthesized according to the method described in J. Chem. Soc. Perkin trans. I, p. 1875, 1988 were stirred in ethanol (200 ml) at a refluxing temperature for 2 h. After the evaporation of the solvent, the residue was recrystallized from a mixed solvent of ethyl acetate-n-hexane to give ethyl 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylate (17.7 g), melting point: 48–49° C.

reactant | 4-Fluorophenylhydrazine | 15.5 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | ethyl 2-ethoxymethyleneacetoacetate | 22.9 g | C(C)OC=C(C(=O)OCC)C(=O)C | C9H14O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylate | 17.7 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)OCC | C13H13FN2O2
